US04532240
5-[4-(4-cyanophenyl)-1-piperazinyl]-6-methyl-2,4-(1H,3H)-pyrimidinedione
A mixture of 20.5 g (0.10 mole) of 5-bromo-6-methyl-2,4(1H,3H)-pyrimidinedione, 18.1 g (0.10 mole) of 4-(4-cyanophenyl)piperazine, 6.4 g (0.11 mole) of anhydrous potassium fluoride, 15.2 g (0.1 mole) of powdered potassium carbonate in 100 ml of hexamethyl phosphoramide was heated at 140° C. for 24 hours. The mixture was cooled and poured into 500 ml of ice water. The solid was collected and washed with 100 ml of water. Recrystallization from N,N-dimethylformamide and drying in vacuo at 78° C. for 16 hours gave 9.3 g of the product as a dull solid.

reactant | 5-bromo-6-methyl-2,4(1H,3H)-pyrimidinedione | 0.10 mole, 20.5 g | BrC=1C(NC(NC1C)=O)=O | C5H5BrN2O2
reactant | 4-(4-cyanophenyl)piperazine | 0.10 mole, 18.1 g | C(#N)C1=CC=C(C=C1)N1CCNCC1 | C11H13N3
reactant | potassium fluoride | 0.11 mole, 6.4 g | [F-].[K+]
reactant | potassium carbonate | 0.1 mole, 15.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | hexamethyl phosphoramide | 100 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 5-[4-(4-cyanophenyl)-1-piperazinyl]-6-methyl-2,4-(1H,3H)-pyrimidinedione | 9.3 g | C(#N)C1=CC=C(C=C1)N1CCN(CC1)C=1C(NC(NC1C)=O)=O | C16H17N5O2
